US07326791B2
3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-(2,5-dihydropyrrol-1-ylcarbonyl)benzamide
Prepared analogously to Example 1d from 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-carboxybenzamide and 2,5-dihydropyrrole, TBTU, and triethylamine in DMSO.

reactant | 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-carboxybenzamide | ClC=1C=C(C(=O)NCC2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)O | C16H11Cl2N3O3
reactant | 2,5-dihydropyrrole | N1CC=CC1 | C4H7N
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | DMSO | CS(=O)C | C2H6OS
product | 3-chloro-N-(5-chloro-1H-benzimidazol-2-ylmethyl)-4-(2,5-dihydropyrrol-1-ylcarbonyl)benzamide | ClC=1C=C(C(=O)NCC2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)N1CC=CC1 | C20H16Cl2N4O2
